US06964966B2
Ammonium acetate (7.85 g, 102 mmol) was added to the stirred solution of 1-benzyl-3,3-diethyl piperidin-4-one (5.0 g, 20.40 mmol) in methanol (100 ml) and stirring was continued for 3 hr at ambient temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (1.3 g, 20.40 mmol) was added to it. Cooling was removed after 10 min. and resulting mixture was stirred for 6 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to furnish 4-amino-1-benzyl-3,3-diethyl piperidine. Yield 8.2 (82%), C16H26N2, m/z 247 (M+1), PMR (CDCl3): 0.84 (s, 3H), 0.98 (s, 3H), 1.48 (bs, 2H, D2O exchangeable), 1.66 (m, 2H), 2.04 (m, 2H), 2.42 (m, 2H), 2.86 (m, 1H), 3.46 (dd, 2H), 7.32 (m, 5H).

reactant | Ammonium acetate | 102 mmol, 7.85 g | C(C)(=O)[O-].[NH4+]
reactant | 1-benzyl-3,3-diethyl piperidin-4-one | 20.40 mmol, 5.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(CC)CC | C16H23NO
reactant | sodium cyanoborohydride | 20.40 mmol, 1.3 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-amino-1-benzyl-3,3-diethyl piperidine | NC1C(CN(CC1)CC1=CC=CC=C1)(CC)CC | C16H26N2
